*
* NGSPICE simulation script
*

* forces current values to be saved
.options savecurrents

*voltage source
Vs 1 0 0.0 ac 1.0 sin(0 1.0 1k)
Vsource 0 9 0.0

.include data2spice_R.txt

.include data2spice_C.txt

.include data2spice_ic.txt

.op

.end

.control

set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

set units=degrees


.op

.end

.control

op

echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-5 20e-3

hardcopy solution.ps v(6) v(1)
echo solution_FIG


echo "********************************************"
echo  "Frequency analysis"
echo "********************************************"

ac dec 100 0.1 1MEG

hardcopy acm.ps db(v(6)) db(v(1))
echo acm_FIG

hardcopy acp.ps phase(v(6)) phase(v(1))
echo acp_FIG


.endc



*alinea 2




